US07632857B2
(4-Bromo-2-fluoro-phenyl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone
Procedure DD: To a stirring solution of (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (11.0 mmol) and n-methylmorpholine (11.0 mmol) in dichloromethane (0.10M), slowly add 4-Bromo-2-fluorobenzoic acid chloride (1.0 mmol) diluted in dichloromethane. Stir reaction at room temperature for one hour. After this time wash the reaction with saturated aqueous sodium bicarbonate while extracting with dichloromethane. Dry the organic layer with sodium sulfate, filter and concentrate in vacuo to give the title compound. MS (m/e): 355.1/357.1 (M+1)

reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 11.0 mmol | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | n-methylmorpholine | 11.0 mmol | CN1CCOCC1 | C5H11NO
reactant | 4-Bromo-2-fluorobenzoic acid chloride | 1.0 mmol | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
solvent | dichloromethane | 0.10M | ClCCl | CH2Cl2
product | (4-Bromo-2-fluoro-phenyl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone | BrC1=CC(=C(C=C1)C(=O)N1C(CCC1)CN1CCCC1)F | C16H20BrFN2O
